US08912188B2
To a solution of 2-(prop-2-ynyloxy)-tetrahydro-2H-pyran (10.0 g, 71.4 mmol) in THF (40 mL) was added n-BuLi (2.5M, 31.4 mL, 78.6 mmol) at −78° C. The reaction mixture was kept for 1 h at −78° C. and then benzaldehyde (8.3 g, 78.6 mmol) was added at −78° C. The reaction mixture was stirred for 2 h and then slowly warmed to −30° C. before being poured into NaHCO3 (aq., 500 mL), extracted with ethyl acetate (3×200 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 1-phenyl-4-(tetrahydro-2H-pyran-2-yloxy)but-2-yn-1-ol as a colorless oil (17.0 g, crude).

reactant | 2-(prop-2-ynyloxy)-tetrahydro-2H-pyran | 71.4 mmol, 10.0 g | C(C#C)OC1OCCCC1 | C8H12O2
reactant | n-BuLi | 78.6 mmol, 2.5M, 31.4 mL | [Li]CCCC
reactant | benzaldehyde | 78.6 mmol, 8.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-phenyl-4-(tetrahydro-2H-pyran-2-yloxy)but-2-yn-1-ol | C1(=CC=CC=C1)C(C#CCOC1OCCCC1)O | C15H18O3
